US06995263B2
a] 6-(4-Trifluoromethoxy-phenyl)-4-trifluoromethyl-nicotinic acid methyl ester
In analogy to the procedure described in example 13 a], 4-(trifluoromethoxy)-phenylboronic acid was reacted with methyl 6-chloro-4-(trifluoromethyl)nicotinate in the presence of bis(triphenylphosphine)palladium(II)chloride and aqueous 2M K3PO4 solution to give the title compound as yellow crystals.

reactant | 4-(trifluoromethoxy)-phenylboronic acid | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
reactant | methyl 6-chloro-4-(trifluoromethyl)nicotinate | ClC1=NC=C(C(=O)OC)C(=C1)C(F)(F)F | C8H5ClF3NO2
reactant | K3PO4 | 2M | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
catalyst | bis(triphenylphosphine)palladium(II)chloride | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 6-(4-Trifluoromethoxy-phenyl)-4-trifluoromethyl-nicotinic acid methyl ester | COC(C1=CN=C(C=C1C(F)(F)F)C1=CC=C(C=C1)OC(F)(F)F)=O | C15H9F6NO3
